US09388172B2
In a 10 mL round-bottomed flask, 4,4,4-trifluoro-3-((3-(3-(trifluoromethyl)phenyl)piperidin-1-yl)methyl)butanoic acid (27 mg, 70.4 μmol) and HATU (26.8 mg, 70.4 μmol) were combined with DMF (1 ml) to give a colorless solution. DIEA (27.3 mg, 36.9 μl, 211 μmol) was added and the resulting mixture was stirred at room temperature for 10 min. 4-Chloro-N′-hydroxybenzimidamide (12.0 mg, 70.4 μmol) was added and the resulting mixture was stirred at room temperature for 4 hr. The reaction mixture was poured into 50 mL saturated NaCl/H2O (1:1) and extracted with ethyl acetate (2×25 mL). The organic layers were combined, washed with saturated NaCl (1×20 mL), H2O (2×50 mL), dried over MgSO4, filtered and concentrated in vacuo to give N-((4-chlorophenyl)-(hydroxyimino)methyl)-4,4,4-trifluoro-3-((3-(3-(trifluoromethyl)phenyl)piperidin-1-yl)methyl)butanamide as an oil, which was used as is for the next reaction.

reactant | 4,4,4-trifluoro-3-((3-(3-(trifluoromethyl)phenyl)piperidin-1-yl)methyl)butanoic acid | 70.4 μmol, 27 mg | FC(C(CC(=O)O)CN1CC(CCC1)C1=CC(=CC=C1)C(F)(F)F)(F)F | C17H19F6NO2
reactant | HATU | 70.4 μmol, 26.8 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 211 μmol, 36.9 μl, 27.3 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-Chloro-N′-hydroxybenzimidamide | 70.4 μmol, 12.0 mg | ClC1=CC=C(C(N)=NO)C=C1 | C7H7ClN2O
reactant | NaCl H2O | 50 mL | [Na+].[Cl-].O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N-((4-chlorophenyl)-(hydroxyimino)methyl)-4,4,4-trifluoro-3-((3-(3-(trifluoromethyl)phenyl)piperidin-1-yl)methyl)butanamide | ClC1=CC=C(C=C1)C(NC(CC(C(F)(F)F)CN1CC(CCC1)C1=CC(=CC=C1)C(F)(F)F)=O)=NO | C24H24ClF6N3O2
